US06881746B2
4-({(4-Chlorophenyl)-[4-(4-chlorophenyl)thiazol-2-yl]amino}methyl)-N-(2H-tetrazol-5-yl)benzamide
4-({(4-Chlorophenyl)-[4-(4-chlorophenyl)thiazol-2-yl]amino}methyl)benzoic acid (0.15 g, 0.33 mmol) was dissolved in DMF (5 mL) and 1-hydroxybenzotriazol (49 mg, 0.36 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (69 mg, 0.36 mmol), and triethylamine (51 μL, 0.36 mmol) were added and the resulting mixture was stirred at room temperature for 15 minutes. 5-Aminotetrazole hydrate (34 mg, 0.33 mmol) was added and the resulting mixture was stirred at room temperature for 16 hours. Water was added and the mixture was stirred at room temperature for 1 hour and filtered. Washing with water and drying in vacuo afforded 145 mg (84%) of the title compound as a solid.

reactant | 4-({(4-Chlorophenyl)-[4-(4-chlorophenyl)thiazol-2-yl]amino}methyl)benzoic acid | 0.33 mmol, 0.15 g | ClC1=CC=C(C=C1)N(C=1SC=C(N1)C1=CC=C(C=C1)Cl)CC1=CC=C(C(=O)O)C=C1 | C23H16Cl2N2O2S
reactant | 1-hydroxybenzotriazol | 0.36 mmol, 49 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.36 mmol, 69 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.36 mmol, 51 μL | C(C)N(CC)CC | C6H15N
reactant | 5-Aminotetrazole hydrate | 0.33 mmol, 34 mg | O.NC1=NN=NN1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-({(4-Chlorophenyl)-[4-(4-chlorophenyl)thiazol-2-yl]amino}methyl)-N-(2H-tetrazol-5-yl)benzamide | 145 mg, 84% | ClC1=CC=C(C=C1)N(C=1SC=C(N1)C1=CC=C(C=C1)Cl)CC1=CC=C(C(=O)NC=2N=NNN2)C=C1 | C24H17Cl2N7OS
